US06130187
Preparation of 3-(4-chloro-2-methyl-3-nitrobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 303)
0.5 g (1.4 mmol) of 3-(4-chloro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil was dissolved in 10 ml of concentrated sulfuric acid, and 0.1 g (1.1 mmol) of 60% nitric acid was dropwise added thereto at -20° C. After stirring at -20° C. for 10 minutes, the reaction solution was poured into ice water and extracted with 50 ml of chloroform. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.3 g (yield: 53.3%) of the desired product as a pale yellow crystals. Melting point: 174-175° C.

reactant | 3-(4-chloro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.4 mmol, 0.5 g | ClC1=CC=C(C2=C1C=C(O2)C)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H10ClF3N2O3
reactant | nitric acid | 1.1 mmol, 0.1 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(4-chloro-2-methyl-3-nitrobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.3 g, yield: 53.3% | ClC1=CC=C(C2=C1C(=C(O2)C)[N+](=O)[O-])N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H9ClF3N3O5
